US09388161B2
A 100-mL round-bottom flask was purged and maintained with an inert atmosphere of nitrogen, and charged with 1-[(2S)-6-bromo-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one (300 mg, 0.79 mmol), 1,4-dioxane (18 mL), water (3 mL), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (65 mg, 0.08 mmol), cesium carbonate (776 mg, 2.37 mmol), and tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (378 mg, 1.00 mmol). The resulting mixture stirred for 12 h at 80° C. After cooling to room temperature, the reaction mixture was passed through a short pad of Celite and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 5:1, ethyl acetate/petroleum ether) to afford (S)-tert-butyl 4-(4-(1-acetyl-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (370 mg, 85%) as yellow oil. MS (ESI, pos. ion) m/z 549 [M+H]+.

reactant | 1-[(2S)-6-bromo-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-1-yl]ethan-1-one | 0.79 mmol, 300 mg | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=C(C=CC=C1)F | C18H17BrFNO2
reactant | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
reactant | cesium carbonate | 2.37 mmol, 776 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 1.00 mmol, 378 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.08 mmol, 65 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 3 mL | O | H2O
product | (S)-tert-butyl 4-(4-(1-acetyl-5-(2-fluorophenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 370 mg, 85% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=C(C=CC=C1)F)C | C31H37FN4O4
